* SpiceNetList
* 
* Exported from Simulated02.sch at 24.01.2020 16:05
* 
* EAGLE Version 9.5.2 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
R_R2 0 OUT 100k 
R_R1 VIN VCAP1 1k 
C_C1 VCAP1 0 100n 
D_D1 VCAP1 OUT DMOD 
V_V1 VIN 0 DC 0V AC 240V 

* --------- models ---------

* (model found in library)

**********************
* Autodesk EAGLE - Spice Model File
* Date: 9/17/17
* basic diode intrinsic model
**********************
.MODEL DMOD D


* --------- simulation ---------

.control
set filetype=ascii
AC Dec 500 1 5e+8 
write Simulated02.sch.sim V(VCAP1) CPH(V(VCAP1))  V(OUT) I(V_V1)
.endc


.END










